US07759376B2
4′-Nitro-1,1′-biphenyl-4-carboxylic acid (0.60 g, 2.4 mmol) was dissolved in methylene chloride (25 mL), and then oxalyl chloride (0.32 mL, 3.7 mmol) was added, followed by one drop of N,N-dimethylformamide. The resulting mixture was heated at 50° C. for 1 h, concentrated under reduced pressure, and further dried under vacuum for 30 min. The residue was dissolved in methylene chloride (20 mL) and added dropwise to an ice-cold mixture of methyl L-valinate hydrochloride (0.54 mg, 3.2 mmol), methylene chloride (25 mL), and triethylamine (1.74 mL, 12.3 mmol). The resulting solution was stirred on ice for 1 h and then at rt overnight. The mixture was diluted with methylene chloride and washed with 1N aqueous HCl solution and brine. The organic layer was separated and concentrated under reduced pressure. The residue was purified by flash chromatography (Biotage® system, 2:1 hexanes/EtOAc) to afford methyl-N-[(4′-nitro-1,1′-biphenyl-4-yl)carbonyl]-L-valinate (0.70 g, 80%). 1H NMR (400 MHz, CD3OD) δ 1.06 (dd, 6H), 2.38 (m, 1H), 3.77 (s, 3H), 4.52 (d, 1H), 7.82 (d, 2H), 7.91 (d, 2H), 7.97 (d, 2H), 8.33 (d, 2H); LC-MS m/z 357.1 (MH+), retention time 3.07 minutes.

reactant | 4′-Nitro-1,1′-biphenyl-4-carboxylic acid | 2.4 mmol, 0.60 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9NO4
reactant | oxalyl chloride | 3.7 mmol, 0.32 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl L-valinate hydrochloride | 3.2 mmol, 0.54 mg | Cl.N[C@@H](C(C)C)C(=O)OC
reactant | triethylamine | 12.3 mmol, 1.74 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | methyl-N-[(4′-nitro-1,1′-biphenyl-4-yl)carbonyl]-L-valinate | 0.70 g, 80% | COC([C@@H](NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C19H20N2O5
